US04880809
An aqueous solution (10 ml) of sodium hydroxide (3 g) is added to a solution of methyl ester of 6-benzyloxy-1-hydroxy-1,2,3,4-tetrahydro-2-naphthoic acid (1 g) dissolved in methanol (80 ml) and the mixture is left standing. After 30 minutes, the mixture is concentrated under reduced pressure. Water (50 ml) is added to the mixture, and then precipitating crystals are collected by filtration. The crystals are washed with water and acetone. The crystals (0.9 g) is added to a mixture of methanol (75 ml), water (25 ml) and 10% palladium carbon (50% water-content) (1 g). The mixture is catalytically hydrogenated at room temperature under atomospheric pressure of hydrogen gas. After hydrogen absorption has ceased, the catalyst is filtered off, and the filtrate is concentrated under reduced pressure. To the residue are added dioxane (30 ml), concentrated hydrochloric acid (2 ml) and water (10 ml), and the mixture is left standing at room temperature for one hour. The resultant is concentrated under reduced pressure. The precipitating crystals are treated with water (10 ml) and collected by filtration to give 7-hydroxy-1,2-dihydro-3-naphthoic acid (0.4 g) as colorless prisms, m.p. 195°-197° C.

reactant | sodium hydroxide | 10 ml, 3 g | [OH-].[Na+]
reactant | 6-benzyloxy-1-hydroxy-1,2,3,4-tetrahydro-2-naphthoic acid | 1 g | C(C1=CC=CC=C1)OC=1C=C2CCC(C(C2=CC1)O)C(=O)O | C18H18O4
solvent | methanol | 80 ml | CO | CH4O
product | 7-hydroxy-1,2-dihydro-3-naphthoic acid | 0.4 g | OC1=CC=C2C=C(CCC2=C1)C(=O)O | C11H10O3
